US04213920
Oxygen enriched with 10 m-moles of ozone are introduced at -20° C. in the course of 15 minutes into a solution of 1.50 g of o-nitrostyrene in 160 ml of methylene chloride. The faintly blue solution is scavenged with nitrogen until the colour has disappeared, treated with 10 ml of dimethyl sulphide and left to stand overnight at room temperature. The clear solution is concentrated in vacuo and the residue is taken up in ethyl acetate. The ethyl acetate solution is washed with water and sodium chloride solution, dried over sodium sulphate and concentrated. The crude product (1.75 g) is taken up in benzene and the solution is chromatographed through a column of silica gel (15 g). The first 100 ml of eluate are concentrated in vacuo, affording 1.39 g of pure o-nitrobenzaldehyde. Yield: 91.5% of theory.

reactant | Oxygen | O=O | O2
reactant | ozone | O=[O+][O-] | O3
reactant | o-nitrostyrene | 1.50 g | [N+](=O)([O-])C1=C(C=C)C=CC=C1 | C8H7NO2
reactant | dimethyl sulphide | 10 ml | CSC | C2H6S
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | o-nitrobenzaldehyde | 1.39 g, Yield: 91.5% | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
